US07173058B2
To a solution of 3-(4-acetylamino-1 ,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3,4-bis-difluoromethoxy-phenyl)-propionic acid (350 mg, 0.72 mmol) in tetrahydrofurane was added carbonyldiimidazole (175 mg, 1.08 mmol) at room temperature. The solution was stirred for 2 hours at room temperature. To the mixture was added dimethylamine in THF (0.73 ml, 1.45 mmol). The resulted mixture was stirred at room temperature for 2 hours. Water (5 ml) was added to the reaction mixture. THF was removed in vacuo and the resulted mixture was taken up in ethyl acetate (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×10 ml), water (10 ml), brine (10 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was purified by HPLC (acetonitrile:water=45:55) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3,4-bis-difluoromethoxy-phenyl)-N,N-dimethyl-propionamide as a white solid (200 mg, 55%): mp, 83–85° C.; 1HNMR (CDCl3): 2.25 (s, 3H, CH3CO), 2.91 (s, 3H, NCH3), 3.06–3.13 (m, 4H, CHHCO+NCH3), 3.85 (dd, J=10, 15 Hz, 1H, CHHCO), 5.85–5.91 (m, 1H, CHN), 6.80 (t, JH-F=75 Hz, 1H, OCF2H), 6.84 (t, JH-F=75 Hz, 1H, OCF2H), 7.23 (d, J=7.5 Hz, 1H, Ar), 7.41–7.47 (m, 3H, Ar), 7.63 (t, J=7.5 Hz, 1H, Ar), 8.72 (d, J=7.5 Hz, 1H, Ar), 9.51 (s, 1H, NHCO). 13C NMR (CDCl3): 24.8, 34.5, 35.4, 36.9, 50.5, 111.4, 111.5, 115.2, 115.6, 115.7, 117.9, 119.8, 119.9, 122.0, 122.4, 124.7, 126.1, 131.1, 135.8, 137.4, 138.2, 141.9, 142.2, 167.7, 168.8, 169.1, 169.7; Anal. Calcd. for C23H21F4N3O6: C, 54.02; H, 4.14; N, 8.22. Found: C, 53.89; H, 3.88; N, 8.13.

reactant | 3-(4-acetylamino-1 ,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3,4-bis-difluoromethoxy-phenyl)-propionic acid | 0.72 mmol, 350 mg | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OC(F)F)=O | C21H16F4N2O7
reactant | carbonyldiimidazole | 1.08 mmol, 175 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
reactant | Water | 5 ml | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | THF | 1.45 mmol, 0.73 ml | C1CCOC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3,4-bis-difluoromethoxy-phenyl)-N,N-dimethyl-propionamide | 200 mg, 55% | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC(F)F)OC(F)F)=O | C23H21F4N3O6
